US04507315
5-Chloroisatoic anhydride (26.7 g) was added in portions to a stirred solution of 3-imidazol-1-ylpropylamine (17.2 g) in dioxan (150 ml) over a period of 15 minutes. Stirring was continued for 40 minutes before the solution was evaporated in vacuo to give 5-chloro-2-amino-N-(3-imidazol-1-ylpropyl)benzamide as a buff coloured solid, used without further purification.

reactant | 5-Chloroisatoic anhydride | 26.7 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 3-imidazol-1-ylpropylamine | 17.2 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-2-amino-N-(3-imidazol-1-ylpropyl)benzamide | ClC=1C=CC(=C(C(=O)NCCCN2C=NC=C2)C1)N | C13H15ClN4O
